US07316884B2
A mixture obtained by dissolving 16.4 g of 5-bromomethyl-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one in 80 ml of isopropyl ether was placed in a flask equipped with an agitator, a thermometer, a condenser and a dropping funnel. While cooling in an ice bath, 9.1 g (0.06 mol) of 1,8-diazabicyclo[5.4.0]-7-undecene diluted with 20 ml of isopropyl ether was added by drops into the solution over 1 hour, followed by stirring at room temperature for 2 hours. After completion of the stirring, the reaction solution was analyzed. As a result, it was found that the reaction solution contained only 1.8 g of 5-methylene-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one (yield: 15%) and that 81% of the raw materials was decomposed into adamantyl methyl ketone.

reactant | 5-bromomethyl-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one | 16.4 g | BrCC1C(OC(O1)(C)C12CC3CC(CC(C1)C3)C2)=O | C15H21BrO3
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.06 mol, 9.1 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | isopropyl ether | 80 ml | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
product | 5-methylene-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one | 1.8 g, yield: 15% | C=C1C(OC(O1)(C)C12CC3CC(CC(C1)C3)C2)=O | C15H20O3
